Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Metronidazole
 
Attending: ___.
 
Chief Complaint:
SOB
 
Major Surgical or Invasive Procedure:
Bronchoscopy

 
History of Present Illness:
This is a ___ year old woman with past medical history of sarcoid 
disease, PA hypertension, and OSA who presents with two weeks of 
worsening dyspnea on exertion. She reports that at baseline she 
will use 2L at rest though recently had been able to take this 
off for short periods. She will put on 4L for ambulation as 
minimal as walking across a room. Over the past two weeks, 
however, this has progressively been worsening so that she never 
takes off her supplementary oxygen and is occasionally bumping 
her oxygen up to 6 L by nasal cannula at home when ambulating. 
Occasional mild righ sided sharp chest pain that lasts a few 
seconds. Not associated w/ exertion or cough. Patient unable to 
elaborate more. She denies any increased cough. No fevers, 
chills, or night sweats. No nausea, vomiting, diarrhea, or any 
abdominal symptoms. She denies orthopnea or PND. She endorses 
occasional lower extremity edema but this has not changes 
recently. Of note, she is on chronic prednisone and MTX therapy 
for her sarcoid. She stopped taking her atovaquone four weeks 
ago due to cost. She contacted the pulmonary clinic today to 
discuss these symptoms and was instructed to come to the ED.  
.
 
In the ED VS T 98.2, P 86, BP 140/63, RR 18, O2 Sat 95% on 2L. 
She got one dose of atovaquone and a CT scan that showed ground 
glass and septal thickening R>L more consistent with sarcoid. 
Pulmonary was called and they said they would follow in house 
and likely bronch tomorrow.  

. 
Currently, she denies any chest pain, fevers, or chills. Reports 
some continued dyspnea but no other acute complaints.  

 
Past Medical History:
Sarcoid (diagnosed more than ___ years ago)
iritis
Grave's disease (status post radioactive iodine)
obesity
HTN
Hyperlipidemia
Osteoarthritis
Hepatitis
GERD (recent onset, associated with taking Prednisone)
 
 
Social History:
___
Family History:
Uncle with emphysema (smoker).  Father deceased from throat 
cancer (smoker).  No family history of sarcoidosis.  A maternal 
uncle reports having a history of DVT and also reports that 
there have been others in the family with DVTs - no further 
information about that clarified.
 
Physical Exam:
VS: T 98.1, BP 140/70, P 64, RR 20, O2 96% on 3L (89% on RA)  
Gen: NAD
HEENT: NC/AT, MMM  
CV: RRR, no M/R/G;  
Pulm: Decreased lung sounds througout, no w/r/r 
Abd: Soft, NT, ND, BS+, 
Extrem: Warm and well perfused, no edema, 2+ radial pulses
Neuro: A and O*3, 

 
Pertinent Results:
Admission labs: ___
WBC-11.4* RBC-4.16* Hgb-12.7 Hct-38.5 MCV-93# MCH-30.5 MCHC-32.9 
RDW-14.3 Plt ___
Glucose-143* UreaN-24* Creat-1.0 Na-141 K-4.0 Cl-103 HCO3-28 
AnGap-14
.
Discharnge labs: ___
WBC-13.4* RBC-3.83* Hgb-11.1* Hct-35.4* MCV-92 MCH-29.1 
MCHC-31.5 RDW-14.3 Plt ___
Glucose-131* UreaN-25* Creat-0.9 Na-141 K-4.6 Cl-103 HCO3-27 
AnGap-16
.
Other labs:
___ 06:40AM BLOOD QG6PD-12.3
___ 03:49PM BAL Polys-4* Lymphs-19* Monos-0 Atyps-1* 
Macro-76*
.
Micro:
Respiratory Viral Antigen Screen (Final ___: 
      Negative for Respiratory Viral Antigen. 
      Specimen screened for: Adeno, Parainfluenza 1, 2, 3, 
Influenza A, B,
      and RSV by immunofluorescence. 
.
___ 3:49 pm BRONCHOALVEOLAR LAVAGE      BAL RML. 

   GRAM STAIN (Final ___: 
      NO POLYMORPHONUCLEAR LEUKOCYTES SEEN. 
      NO MICROORGANISMS SEEN. 

   RESPIRATORY CULTURE (Preliminary): 
      10,000-100,000 ORGANISMS/ML. Commensal Respiratory Flora. 

   POTASSIUM HYDROXIDE PREPARATION (Final ___: 
      Test cancelled by laboratory. 
      PATIENT CREDITED. 
      This is a low yield procedure based on our in-house 
studies if
      pulmonary Histoplasmosis, Coccidioidomycosis, 
Blastomycosis,
      Aspergillosis or Mucormycosis is strongly suspected, 
contact the
      Microbiology Laboratory (___). 

   Immunoflourescent test for Pneumocystis jirovecii (carinii) 
(Final
      ___:    NEGATIVE for Pneumocystis jirovecii 
(carinii).. 

   FUNGAL CULTURE (Preliminary): 

   ACID FAST SMEAR (Final ___: 
      NO ACID FAST BACILLI SEEN ON CONCENTRATED SMEAR. 

   ACID FAST CULTURE (Preliminary): 

   VIRAL CULTURE: R/O CYTOMEGALOVIRUS (Preliminary): 
.
Imaging:
___ CT chest: 
1. Interval increase in ground-glass opacity of the right lung, 
with 
peribronchovascular thickening and ground-glass opacities, 
appearance and 
distribution similar to previous studies and most consistent 
with progression of known sarcoid. 
2. Enlargement of the main pulmonary artery suggestive of, 
although not 
diagnostic of pulmonary arterial hypertension. 
3. Unchanged small pericardial effusion. 
___ CXR: Frontal and lateral views of the chest were 
obtained. Bilateral interstitial opacities are again seen, 
increased diffusely on the right.  Findings may be due to 
asymmetric progression of sarcoid, although an overlying, 
superimposed infectious process is not excluded. Findings are 
less likely due to asymmetric edema. No pleural effusion is 
seen. The cardiac and mediastinal silhouettes are stable, with 
mild cardiomegaly again seen.  

 
Brief Hospital Course:
___ year old female with history of stage IV pulmonary sarcoid as 
well as pulmonary hypertension and chronic immunosuppressive 
therapy presenting with worsened dyspnea on exertion in the 
context of stopping her PCP prophylaxis four weeks ago.  

1) Dyspnea on exertion/Hypoxia: Given chest CT most likely 
diagnosis is sarcoid flair. Pulmonary was consulted during this 
admission and performed a bronchoscopy. BAL was PCP negative and 
did not show any bacteria on gram stain. Giver her subacute 
presentation, lack of tachycardia on exam, no EKG changes, and 
improvement with steroids, it was thought that PE was very 
unlikely and the patient did not get a CTA. Patient was treated 
with an increased dose of Prednisone. She will continue of 40mg 
po qday until her pulmonologist instructs her otherwise. She was 
restarted on her Mepron and will continue her outpatient dose of 
methotrexate.  
.  
2) Pulmonary artery hypertension: Patient is currently off 
sildenafil. Recommend outpatient workup for further managment. 
This was not an acute issue during this admission. 
. 
3) Chronic diastolic CHF: Continued patient's daily Lasix. 
.  
4) Osteoarthritis/Chronic knee pain: Continue home tramadol and 
tylenol

 
Medications on Admission:
-Albuterol PRN  
-Alendronate weakly  
-Budesoninde-formeterol inhaler BID  
-furosemide 40 mg PO daily  
-Levothyroxine (dose unclear)  
-MTX 15 mg weakly  
-Prednisone 20 mg daily  
-Simvastatin 10 mg PO daily  
-Tramadol 50 mg PO Q6hr PRN  
-Famotidine PRN  

 
Discharge Medications:
1. Albuterol Sulfate 90 mcg/Actuation HFA Aerosol Inhaler Sig: 
___ puff Inhalation every ___ hours as needed for shortness of 
breath or wheezing.  
2. Prednisone 20 mg Tablet Sig: Two (2) Tablet PO once a day for 
1 weeks.
Disp:*14 Tablet(s)* Refills:*0*
3. Furosemide 40 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
4. Simvastatin 10 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
5. Tramadol 50 mg Tablet Sig: One (1) Tablet PO Q6H (every 6 
hours) as needed for pain.  
6. Levothyroxine 137 mcg Tablet Sig: One (1) Tablet PO once a 
day.  
7. Methotrexate Sodium 15 mg Tablet Sig: One (1) Tablet PO once 
a week.
Disp:*4 Tablet(s)* Refills:*0*
8. Alendronate 35 mg Tablet Sig: One (1) Tablet PO once a week.  

9. Budesonide-Formoterol 160-4.5 mcg/Actuation HFA Aerosol 
Inhaler Sig: Two (2) puff Inhalation twice a day.  
10. Atovaquone 750 mg/5 mL Suspension Sig: 1500 (1500) mg PO 
once a day.
___ mg* Refills:*2*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis:
Sarcoidosis
.
Secondary Diagnosis:
1. Pulmonary arterial hypertension.  
2. Obstructive sleep apnea.  
3. Chronic diastolic congestive heart failure, EF 70%
4. Osteoarthritis  
.

 
Discharge Condition:
Alert and oriented, ambulating on oxygen without assistance.

 
Discharge Instructions:
You were admitted with shortness of breath. You had a 
bronchoscopy done to rule out infection. The bronchoscopy did 
not show an infection in your lung and you likely have a 
temporary worsening of your sarcoidosis. You will be treated 
with increased steroids for the next several days. It is also 
important that you restart your Mepron as it will prevent a 
serious infection call PCP. 
.
We have made the following changes to your medications:
1) Prednisone 40mg by mouth for 7 days. Dr. ___ 
instruct you further on your prednisone dose. He will call you. 
If you do not hear from him by the end of your perscription, 
please call his office. 
2) Resume Mepron 1500mg by mouth once a day 

For assistance with paying for your medications please contact 
___ at ___.
 
Followup Instructions:
___